US08563617B2
82.1 (Propane-1-sulfonic acid (R)-1-(propane-1-sulfonyl)-pyrrolidin-2-ylmethyl ester
Prepared as described for 2-(N-methylpropylsulfonamido)ethyl propane-1-sulfonate (example 76, step 1 using (R)-1-pyrrolidin-2-yl-methanol instead of 2-(methylamino)ethanol.

reactant | 2-(N-methylpropylsulfonamido)ethyl propane-1-sulfonate | C(CC)S(=O)(=O)OCCN(S(=O)(=O)CCC)C | C9H21NO5S2
reactant | (R)-1-pyrrolidin-2-yl-methanol | N1[C@H](CCC1)CO | C5H11NO
product | Propane-1-sulfonic acid (R)-1-(propane-1-sulfonyl)-pyrrolidin-2-ylmethyl ester | C(CC)S(=O)(=O)N1[C@H](CCC1)COS(=O)(=O)CCC | C11H23NO5S2
